US09328093B2
9-oxo-5,6,7,8,9,10-hexahydro-acridine-3-carboxylic acid (VIa)
To a suspension of 2-amino terephthalic acid (12 g, 6.6 mmols) in diphenyl ether (120 mL), cyclohexanone (25 mL) was added and the reaction mixture was heated to 250° C. for 10 min. Reaction completion was monitored by LC/MS (75% starting material and 25% Product formation was observed). Cyclohexanone (25 mL) was added and the reaction mixture was heated to 250° C. for another 10 min. (LC/MS showed 50% product formation). The above process was repeated till LC/MS showed complete product formation (Starting material <2%). The reaction mixture was cooled to 25° C., product was filtered, washed with hexane (100 mL) and dried under vacuum to get 15.8 g of (Via) (98%) as a yellow solid.

reactant | 2-amino terephthalic acid | 6.6 mmols, 12 g | NC1=C(C(=O)O)C=CC(=C1)C(=O)O | C8H7NO4
solvent | diphenyl ether | 120 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | cyclohexanone | 25 mL | C1(CCCCC1)=O | C6H10O
solvent | Cyclohexanone | 25 mL | C1(CCCCC1)=O | C6H10O
product | 9-oxo-5,6,7,8,9,10-hexahydro-acridine-3-carboxylic acid | O=C1C=2CCCCC2NC=2C=C(C=CC12)C(=O)O | C14H13NO3
